US07632829B2
1-[(E)-3-(3-Chloro-phenyl)-acryloyl]-4-(2-pyrrolidin-1-yl-ethyl)-[1,4]diazepan-5-one
In analogy to the procedure described in intermediate 4A, 1-[(E)-3-(3-chloro-phenyl)-acryloyl]-[1,4]diazepan-5-one (intermediate 3A]) and 1-(2-chloro-ethyl)-pyrrolidine gave the title compound as off-white powder. MS: 376.5 (MH+, Cl).

reactant | 1-[(E)-3-(3-chloro-phenyl)-acryloyl]-[1,4]diazepan-5-one | ClC=1C=C(C=CC1)/C=C/C(=O)N1CCNC(CC1)=O | C14H15ClN2O2
reactant | 1-(2-chloro-ethyl)-pyrrolidine | ClCCN1CCCC1 | C6H12ClN
product | 1-[(E)-3-(3-Chloro-phenyl)-acryloyl]-4-(2-pyrrolidin-1-yl-ethyl)-[1,4]diazepan-5-one | ClC=1C=C(C=CC1)/C=C/C(=O)N1CCN(C(CC1)=O)CCN1CCCC1 | C20H26ClN3O2
